US08859773B2
Step 3: 5-bromo-N-methyl-1H-indazol-3-amine
A mixture of 5-bromo-2-fluoro-N-methylbenzothioamide (480 mg, 1.9 mmol) and anhydrous hydrazine (0.61 mL, 19 mmol) in dimethylsulfoxide (6 mL) was heated to 80° C. and stirred for 1 hour. The temperature was increased to 100° C. and the reaction was stirred for 40 minutes. The temperature was increased further to 130° C. and the reaction was stirred for another 45 minutes. The reaction was cooled to room temperature and diluted with ethyl acetate and brine. The layers were separated and the aqueous was extracted with ethyl acetate (4×). The combined organics were washed with water and brine, dried over sodium sulfate, filtered, and concentrated. Purification by flash column chromatography (20-70% ethyl acetate/heptanes) gave the title compound (103 mg, 23%) as a white solid. +ESI (M+H+1) 228.0; 1H NMR (400 MHz, CD3OD, δ): 7.78 (dd, J=1.85, 0.68 Hz, 1H), 7.29-7.40 (m, 1H), 7.17 (dd, J=8.88, 0.68 Hz, 1H), 2.94 (s, 3H).

reactant | 5-bromo-2-fluoro-N-methylbenzothioamide | 1.9 mmol, 480 mg | BrC=1C=CC(=C(C(NC)=S)C1)F | C8H7BrFNS
reactant | hydrazine | 19 mmol, 0.61 mL | NN | H4N2
solvent | dimethylsulfoxide | 6 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | brine | [Cl-].[Na+].O
product | 5-bromo-N-methyl-1H-indazol-3-amine | 103 mg, 23% | BrC=1C=C2C(=NNC2=CC1)NC | C8H8BrN3
